US05371101
In the same manner as in Reference Example 5, starting from 543 mg of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 809 mg of 4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone prepared by a method described in Journal of Medicinal Chemistry, vol. 27, page 894 (1984), 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone (373 mg) was obtained as colorless prisms.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 543 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone | 809 mg | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3(2H,4H)-1,2,4-triazolone | 373 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=CC=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)OC)CO1 | C29H29F2N5O3
